US05529988
Step D. (α-Chloroethyl)benzylethylmethylsilane
To a solution of (α-chloroethyl)chloroethylmethylsilane (0.171 g, 1 mmol) in diethyl ether (5 ml) was added a solution of benzylmagnesium bromide (1 mmol, 1 eq). The mixture was refluxed for 12 hours, then filtered. The product was purified by distillation.

reactant | (α-chloroethyl)chloroethylmethylsilane | 1 mmol, 0.171 g | ClC(C)[SiH](C)CCCl | C5H12Cl2Si
reactant | benzylmagnesium bromide | 1 mmol, 1 eq | C(C1=CC=CC=C1)[Mg]Br
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | (α-Chloroethyl)benzylethylmethylsilane | ClC(C)[SiH](C)CCCC1=CC=CC=C1 | C12H19ClSi
